US09120749B2
(S)-1-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)propan-1-one
Following general procedure A, (S)-tert-butyl 1-(5-(6-(3,5-dichloro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (50 g, 0.078 mmol) was treated with a solution of 3N HCl to afford desired product (36.2 mg, 72%) as a yellow-orange solid: 1H NMR (500 MHz, MeOD) δ 9.29 (s, 1H), 8.25 (m, 2H), 8.05 (m, 2H), 7.85 (d, J=8.8 Hz, 1H), 7.31 (m, 3H), 4.52 (s, 1H), 4.06 (d, J=12.6 Hz, 1H), 3.81 (m, 3H); 2.16 (q, J=7.0 Hz, 2H), 2.22 (s, 1H), 1.98 (s, 1H), 1.24 (t, J=7.0 Hz, 3H); APCI MS m/z 536 [C28H27Cl2N5O2+H]+; HPLC 98.7% (AUC), tR=10.30 min.

reactant | (S)-tert-butyl 1-(5-(6-(3,5-dichloro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.078 mmol, 50 g | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C33H35Cl2N5O4
reactant | HCl | 3N | Cl | ClH
product | (S)-1-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)propan-1-one | 36.2 mg, 72% | N[C@@H]1CN(CCC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(CC)=O | C28H27Cl2N5O2
